US04451645
A solution of 3,5-bis(trifluoromethyl)aniline (22.9 g) and epichlorohydrin (37 g) in glacial acetic acid (10.6 g) were heated at about 100° C. for about 11 hours. Excess epichlorohydrin was distilled off under reduced pressure. Benzene (100 cm3), a solution of sodium hydroxide (8 g) in water (30 cm3) and benzyltriethylammonium chloride (0.3 g) was added to the residue and the mixture stirred at about room temperature for about 15 minutes, followed by 15 minutes at about 60° C. The aqueous layer was discarded. The dehydrochlorination procedure was repeated three times in order to effect complete conversion. The solvent was removed and the product was purified by preparative high performance liquid chromatography to give 19.5 g of 3,5-bis(trifluoromethyl)-N,N-bis(2,3-epoxypropyl)aniline.

reactant | 3,5-bis(trifluoromethyl)aniline | 22.9 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | epichlorohydrin | 37 g | C(Cl)C1CO1 | C3H5ClO
solvent | acetic acid | 10.6 g | C(C)(=O)O | C2H4O2
product | 3,5-bis(trifluoromethyl)-N,N-bis(2,3-epoxypropyl)aniline | 19.5 g | FC(C=1C=C(N(CC2CO2)CC2CO2)C=C(C1)C(F)(F)F)(F)F | C14H13F6NO2
